US03946009
A solution of 2-amino-3,5-dimethoxypyrazine (0.02 mole) in 300 ml. of 6M sulfuric acid at 0°-5° C. is treated with 0.022 mole sodium nitrite in 25 ml. of water at such a rate to insure that the termperature of the reaction mixture does not rise above 5° C. After standing 45 minutes at 0°-5°C., a little urea is added to destroy excess nitrous acid and the mixture then is treated with sodium hydroxide solution until strongly basic. The reaction mixture is warmed to 60° C. for 1 hour and then brought to pH 8.5. The mixture is concentrated to a third of the original volume and cooled in the refrigerator overnight. The product is separated by filtration and dried in vacuo, recrystallized from a suitable solvent to give 2-hydroxy-3,5-dimethoxypyrazine.

reactant | 2-amino-3,5-dimethoxypyrazine | 0.02 mole | NC1=NC=C(N=C1OC)OC | C6H9N3O2
reactant | sulfuric acid | 6M | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.022 mole | N(=O)[O-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 2-hydroxy-3,5-dimethoxypyrazine | OC1=NC=C(N=C1OC)OC | C6H8N2O3
